US07884101B2
Preparation of N-{3-(4-bromo-2-methyl-2H-pyrazol-3-yl)-4-[2-(3-methoxy-azetidin-1-yl)-ethoxy]-phenyl}-3-methyl-butyramide (Compound 326)
To a solution of 3-(4-bromo-1-methyl-1H-pyrazol-5-yl)-4-(2-(3-methoxyazetidin-1-yl)ethoxy)benzenamine (40.3 mg, 0.107 mmol) and pyridine (35 μL) in CH2Cl2 (2 mL) was added isovaleryl chloride (15 μL, 0.122) and stirred for two hours. The resulting material was purified by HPLC. The product was dried in vacuo to afford the title compound as a white solid (36.0 mg, 73%). LCMS m/z (%)=465 (M+H 79Br, 75), 467 (M+H 81Br, 90). 1H NMR (400 MHz, DMSO-d6) δ: 10.00 (bs, 1H), 7.69 (dd, J=8.99, 2.65 Hz, 1H), 7.60 (s, 1H), 7.48 (d, J=2.63 Hz, 1H), 7.09 (d, J=9.06 Hz, 1H), 4.03-3.86 (m, 2H), 3.82 (quint, J=5.76 Hz, 1H), 3.65 (s, 3H), 3.35-3.28 (m, 1H), 3.24-3.17 (m, 1H), 3.08 (s, 3H), 2.73-2.55 (m, 41H), 2.16 (d, J=6.96 Hz, 2H), 2.12-2.00 (m, 1H), 0.92 (d, J=6.55 Hz, 6H).

reactant | 3-(4-bromo-1-methyl-1H-pyrazol-5-yl)-4-(2-(3-methoxyazetidin-1-yl)ethoxy)benzenamine | 0.107 mmol, 40.3 mg | BrC=1C=NN(C1C=1C=C(C=CC1OCCN1CC(C1)OC)N)C | C16H21BrN4O2
reactant | pyridine | 35 μL | N1=CC=CC=C1 | C5H5N
reactant | isovaleryl chloride | 15 μL | C(CC(C)C)(=O)Cl | C5H9ClO
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | N-{3-(4-bromo-2-methyl-2H-pyrazol-3-yl)-4-[2-(3-methoxy-azetidin-1-yl)-ethoxy]-phenyl}-3-methyl-butyramide | 36.0 mg, 73% | BrC1=C(N(N=C1)C)C=1C=C(C=CC1OCCN1CC(C1)OC)NC(CC(C)C)=O | C21H29BrN4O3
